US08865732B2
To the solution of 4-(bromoacetyl)pyridine hydrobromide (500 mg, 1.8 mmol) in dry DMF (5 mL) was added thiobenzamide (242 mg, 1.8 mmol,) and the resulting reaction was stirred at rt for 12 h. Thereafter, the reaction quenched with saturated aqueous NaHCO3 solution (25 mL) and the mixture extracted with EtOAc (3×25 mL). The combined organic extracts were washed with water (25 mL), dried (Na2SO4), and concentrated. The resulting residue was purified by flash chromatography (SiO2, 100:0-0:100 hexanes-EtOAc) furnished 2-phenyl-4-(pyridin-4-yl)thiazole: LCMS (m/z): 239.0 (MH+), tR=0.64 min.

reactant | 4-(bromoacetyl)pyridine hydrobromide | 1.8 mmol, 500 mg | Br.BrCC(=O)C1=CC=NC=C1
reactant | thiobenzamide | 1.8 mmol, 242 mg | C(C1=CC=CC=C1)(=S)N | C7H7NS
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-phenyl-4-(pyridin-4-yl)thiazole | C1(=CC=CC=C1)C=1SC=C(N1)C1=CC=NC=C1 | C14H10N2S
